US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-N-methyl-2-nitroaniline
The procedures described in Example 12 were repeated except that 1-chloro-2-nitrobenzene (1.87 g, 11.9 mmol) and 5-(2-methylaminoethyl)-1-azabicyclo[3.3.0]octane (4.00 g, 28.8 mmol) were employed. In th is case, the desired compound was obtained as a orange liquid (2.95 g, 85.7%).

reactant | 1-chloro-2-nitrobenzene | 11.9 mmol, 1.87 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 5-(2-methylaminoethyl)-1-azabicyclo[3.3.0]octane | 28.8 mmol, 4.00 g | CNCCC12CCCN2CCC1 | C10H20N2
product | N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-N-methyl-2-nitroaniline | N12CCCC2(CCC1)CCN(C1=C(C=CC=C1)[N+](=O)[O-])C | C16H23N3O2
